US04096267
Step D: 2-(4-Bromophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone
Sodium methoxide (28.4 g., 0.522 mole) is added to a stirred mixture of 2-(4-bromophenyl)-5-methoxy-6,7-dichloro-1-indanone (134.6 g., 0.348 mole), iodomethane (217 ml., 3.48 mole), dry benzene (1700 ml.) and dry dimethylformamide (1700 ml.) under nitrogen in an ice-water bath. The reaction mixture is left to come to ambient temperature over 2 hours, then poured into water (8 l.) to precipitate 92.2 g. of 2-(4-bromophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone, m.p. 200°-203° C., which is not soluble in the benzene present.

reactant | Sodium methoxide | 0.522 mole, 28.4 g | C[O-].[Na+]
reactant | 2-(4-bromophenyl)-5-methoxy-6,7-dichloro-1-indanone | 0.348 mole, 134.6 g | BrC1=CC=C(C=C1)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C16H11BrCl2O2
reactant | iodomethane | 3.48 mole, 217 ml | IC | CH3I
reactant | benzene | 1700 ml | C1=CC=CC=C1 | C6H6
solvent | water | 8 l | O | H2O
solvent | dimethylformamide | 1700 ml | CN(C=O)C | C3H7NO
product | 2-(4-Bromophenyl)-2-methyl-5-methoxy-6,7-dichloro-1-indanone | BrC1=CC=C(C=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C17H13BrCl2O2
